US04940716
21.5 g of 1-methyl-1,2,3,4-tetrahydro-isoquinolinehydrochloride (its preparation: Monatshefte, volume 53-54, 959 (1929) are dissolved in 50 cm3 water and to the solution a solution of 8.22 g of sodium nitrite in 25 cm3 water is added within 1 hour at 75° C. dropwise. The reaction mixture is cooled at 75° C. after stirring for 2 hours and it is extracted with 6×30 cm3 chloroform. The chloroform solution is washed with 50 cm3 water, dried and evaporated in vacuo. 19.2 g (93%) 1-methyl-2-nitroso-1,2,3,4-tetrahydro-isoquinoline are obtained as a brown oil which is used for the next step without further purification.

reactant | 1-methyl-1,2,3,4-tetrahydro-isoquinolinehydrochloride | 21.5 g | Cl.CC1NCCC2=CC=CC=C12
reactant | sodium nitrite | 8.22 g | N(=O)[O-].[Na+]
solvent | water | 50 cm3 | O | H2O
solvent | water | 25 cm3 | O | H2O
product | 1-methyl-2-nitroso-1,2,3,4-tetrahydro-isoquinoline | 19.2 g, 93% | CC1N(CCC2=CC=CC=C12)N=O | C10H12N2O
